Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
lovastatin / NSAIDS (Non-Steroidal Anti-Inflammatory Drug)
 
Attending: ___.
 
Chief Complaint:
Hematemesis
 
Major Surgical or Invasive Procedure:
EGD - ___
 
History of Present Illness:
Patient is a ___ w/ obesity s/p Roux-en-Y gastric bypass, known 
large gastrojejunal ulcer, severe PVD s/p multiple vascular 
interventions (most recently s/p BKA on ___, and chronic 
back/extremity pain on methadone who presents to the ED with 
hematemesis. 

Of note, the patient was discharged from ___ after a 
hospitalization ___ during which she underwent L BKA for 
severe wound infection.  She then went to her rehab facility & 
had ___ episodes of hematemesis prompting return to ___.  

On admission, she denied any BRBPR, melena, chest pain, 
lightheadedness, dizziness, abdominal pain, fevers or chills.

In the ED, she had continued hematemesis so was intubated 
emergently for airway protection.  She was sedated w/ fentanyl   
Her initial vital signs were T 98.1, HR 97, BP 121/68, RR18 O2 
98%.  Her HGB was 6.6 from 8.2 so she was transfused 2U pRBCs. 
GI, ACS & Vascular Surgery were consulted for management. 

On arrival to the ICU, the patient remained intubated & sedated. 
 She was HDS.  
 
Past Medical History:
Nephrolithiasis  
 Recurrent lower extremity cellulitis  
 Hypertension  
 Hyperlipidemia  
 Type 2 diabetes  
 Peripheral vascular disease with bilateral foot ulceration and  

 left lower extremity osteomyelitis  
 GERD  
 Peripheral neuropathy  
 Chronic lower back pain and lower extremity pain on methadone  
 Hysterectomy  
 Roux-en-Y gastric bypass in ___  
 Cholecystectomy  
 Right hip ORIF  
 Right common femoral artery endarterectomy with patch 
angioplasty  
 Skin graft to right foot  
 Left common femoral endarterectomy with patch angioplasty  
 Debridements to feet for ulceration  
 Prior popliteal to proximal tibial artery bypass status post  
 thrombosis with thrombectomy and stent placement ___  
 
Social History:
___
Family History:
Pt denies significant family history other than sister having 
cardiac disease requiring open heart surgery.
 
Physical Exam:
ADMISSION EXAM
========================
VITALS:  Reviewed in metavision
GENERAL: Intubated, sedated.
HEAD: NC/AT.
CARDIAC: RRR, S1S2 w/o m/r/g. 
RESPIRATORY: Clear anteriorly.
EXTREMITIES: Warm, pulses intact.

DISCHARGE EXAM
========================
VS: 
24 HR Data (last updated ___ @ 806)
    Temp: 99.7 (Tm 99.7), BP: 150/81 (114-154/56-81), HR: 75
(73-83), RR: 18, O2 sat: 94% (94-100), O2 delivery: RA  
Gen: Chronically ill appearing woman in NAD who appears well thi
smorning
HEENT: MMM. EOMI
Neck: No LAD
CV: RRR, No m/r/g
PULM: LCTAB
ABD: S/NT/ND
EXT: WWP, NO ___ edema, s/p left BKA with no minimal surrounding
erythema, staples and sutures in place.
Neuro: A&ox3, following commands, moving all four extremities

 
Pertinent Results:
ADMISSION LABS
=============================
___ 06:08AM BLOOD WBC-8.8 RBC-3.06* Hgb-8.2* Hct-26.3* 
MCV-86 MCH-26.8 MCHC-31.2* RDW-18.8* RDWSD-58.4* Plt ___
___ 04:50AM BLOOD Neuts-84.0* Lymphs-10.5* Monos-3.0* 
Eos-0.1* Baso-0.5 Im ___ AbsNeut-9.16*# AbsLymp-1.14* 
AbsMono-0.33 AbsEos-0.01* AbsBaso-0.05
___ 04:50AM BLOOD ___ PTT-28.3 ___
___ 06:08AM BLOOD Glucose-75 UreaN-11 Creat-1.1 Na-140 
K-4.7 Cl-103 HCO3-26 AnGap-11
___ 04:50AM BLOOD ALT-7 AST-10 AlkPhos-82 TotBili-0.2
___ 06:08AM BLOOD Calcium-7.7* Phos-2.5* Mg-1.9
___ 10:25AM BLOOD ___ pO2-175* pCO2-41 pH-7.36 
calTCO2-24 Base XS--1
___ 04:54AM BLOOD Lactate-1.4 Na-134 K-3.8

RELEVANT STUDIES
=============================
___ EGD:
Blood in the esophagus. Unable to visualize most of stomach 
mucosa. Not able to visualize known two large ulcers due to 
large blood clot that was unable to be displaced. Jejunal limbs 
not seen due to blood. Duodenum not visualized due to anatomy. 
Procedure aborted due to poor visibility, large blood. Otherwise 
normal EGD to stomach

___ EGD
Duodenum not seen due to post surgery anatomy.
The alimentary limb was explored for 20 cm without blood or 
bleeding. Two jejunal diverticula were seen, without evidence of 
bleeding.
No active bleeding was seen. No visible vessels or high risk 
stigmata were seen. Previous RNYGB of the stomach
Ulcers in the gastrojejunal anastamosis
An OG tube was present at the initiation of the procedure. This 
was removed.
A dobhoff was blindly placed through the right nare into the 
esophagus. It was manually advanced, and once in place 
endoscopically it appeared to be entering the alimentary limb.
Otherwise normal EGD to 20 cm into alimentary jejunal limb

___ EGD
Esophagus: Normal esophagus. 
Stomach:  
 Lumen: Evidence of a previous RNYGB was seen.  
 Excavated Lesions Two ulcers ranging in size from 5 mm to 9 mm 
were found at the gastrojejunal anastamosis. The linear ulcer on 
the anastamotic scar was notably decreased in size. The round 
ulcer between the jejunal limbs appeared slightly decreased in 
size. There was no spontaneous bleeding or stigmata of bleeding. 
  
 Other Two staples were encountered at the site of the 
anastamotic ulcer.   The two staples were successfully removed 
using a jumbo forceps. Very minimal oozing was noted, which 
stopped without intervention.   
Duodenum:  
 Other duodenum not visualized due to post surgical anatomy.  
Impression: Duodenum not visualized due to post surgical 
anatomy.
Ulcers in the gastrojejunal anastamosis
Two staples were encountered at the site of the anastamotic 
ulcer. (foreign body removal)
Previous RNYGB of the stomach
Otherwise normal EGD to gastro-jejunal anastamosis 

DISCHARGE LABS
=============================
___ 08:40AM BLOOD WBC-8.7 RBC-3.21* Hgb-9.1* Hct-29.3* 
MCV-91 MCH-28.3 MCHC-31.1* RDW-16.7* RDWSD-55.1* Plt ___
___ 08:40AM BLOOD Glucose-183* UreaN-21* Creat-1.3* Na-139 
K-4.6 Cl-103 HCO3-23 AnGap-13
 
Brief Hospital Course:
Ms. ___ is a ___ year of female with a history of obesity 
s/p Roux-en-Y gastric bypass, known large gastrojejunal ulcer, 
severe PVD s/p multiple vascular interventions (most recently 
s/p BKA on ___, and chronic back/extremity pain on methadone 
who presented with hematemesis ___ GJ anastomosis ulcer. 

# Acute blood loss anemia:
# Hematemesis:
# GJ Ulcer:
Patient presented from her rehabilitation facility with 
hematemesis. HGB had dropped from 8.2 to 6.6. Of note, patient 
was hospitalized at ___ from ___ for BKA. She received 4 
units pRBC during her MICU stay with appropriate response. She 
was placed on IV PPI which was transitioned to PO PPI after 
stabilization of H/H. During prior hospitalization, patient 
underwent 5 EGDs for UGIB with known gastrojejunal ulcer that 
could not be intervened upon due to large, adherent clot 
present. GI, Bariatric Surgery & ACS were consulted for 
management. GI performed EGD ___ & saw large blood in the 
stomach w/o further visualization.  Repeat EGD ___ which 
showed 2 excavating ulcers at the GJ anastomotic junction. She 
was hemodynamically stable and transferred to the floor where 
she had no further signs of bleeding. Bariatrics was consulted 
as below. EGD performed on ___ that removed two staples 
without complication. Discharge Hb/Hct 9.___.3. 

# History of RNY Gastric Bypass:
# Severe protein calorie malnutrition
Poor nutrition likely impairing ulcer healing and would make 
surgery higher risk. Albumin is currently 1.7. Per bariatric 
surgery team, the albumin needs to improve to 4 before reversal 
of gastric bypass. They have recommended enteral feeding but the
patient refuses placement of dobhoff tube. Dobhoff was initially 
placed under endoscopic guidance in the ICU but this came out. 
She refused further dobhoff placement. Given this barrier, she 
was given protein shakes three times daily. Nutrition was 
consulted and she was started on vitamin D and B12. Discharge 
albumin 1.8.

# Respiratory compromise given hematemesis:
She was intubated on admission given continued hematemesis. Once 
bleed stablilized, extubated successfully ___. 

# PVD s/p BKA: 
Home aspirin and clopidogrel were held upon admission given 
concern for ongoing, active bleeding. Vascular Surgery stated no 
utility in further ASA & clopidogrel in the setting of repeated 
bleeds. Continued statin therapy. 

# Chronic Pain: Home methadone held when on fentanyl for 
sedation. She was then restarted on home methadone.

TRANSITIONAL ISSUES
===================
[] Ensure follow up with her previous Bariatric surgeon at 
___ for discussion  and planning of reversal
[] Continue to closely monitor nutrition status and continue 
aggressive nutrient and protein supplementation. Trend weekly 
albumin. If albumin is not sufficiently improving on aggressive 
PO supplementation, would consider re-addressing enteral 
feedings.
[] Aspirin and Plavix stopped because of recurrent marginal 
ulcer bleeds. Would recommend stopping these medications until 
RNY reversal or further discussion with vascular and bariatric 
surgery. Can consider repeat EGD in 8 weeks to evaluate for 
healing of ulcers and considering restart of aspirin at this 
time in consultation with vascular surgery, GI, and bariatric 
surgery.
[] BID high dose PPI for 8 weeks beginning ___ then 
continue daily high dose PPI indefinitely
[] Minocycline had been prescribed for surgical site erythema 
but was stopped as this appeared improved to the vascular 
surgery team during this admission. If erythema returns, restart 
minocycline. 
[] Ensure follow up with Dr. ___ in vascular surgery in 2 
weeks.
[] NSAIDs should be avoided in this patient. NSAIDs added to  
allergy list.
[] consider adding back atenolol if need for blood pressure. 
Alternatively, consider metoprolol or increasing her current 
doses of HCTZ or lisinopril if renal function allows

- Communication: ___  son ___ 
- Code: Full, confirmed  
 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Clopidogrel 75 mg PO DAILY 
2. Cyanocobalamin 50 mcg PO DAILY 
3. Gabapentin 600 mg PO BID 
4. Hydrochlorothiazide 12.5 mg PO DAILY 
5. Lisinopril 10 mg PO DAILY 
6. Methadone 30 mg PO QAM 
7. Methadone 20 mg PO QPM 
8. Methadone 30 mg PO QHS 
9. Simvastatin 10 mg PO QPM 
10. Acetaminophen 1000 mg PO Q6H 
11. HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN Pain - Severe 
12. Minocycline 100 mg PO BID 
13. Pantoprazole 40 mg PO Q12H 
14. Aspirin 81 mg PO DAILY 
15. Atenolol 25 mg PO DAILY 

 
Discharge Medications:
1.  Multivitamins W/minerals 1 TAB PO DAILY  
2.  Vitamin D ___ UNIT PO 1X/WEEK (___)  
3.  Vitamin D 1000 UNIT PO DAILY  
4.  Cyanocobalamin 50 mcg PO DAILY  
5.  Gabapentin 600 mg PO BID  
6.  Hydrochlorothiazide 12.5 mg PO DAILY  
7.  Lisinopril 10 mg PO DAILY  
8.  Methadone 30 mg PO QAM 
RX *methadone 10 mg 3 tablets by mouth QAM and QHS Disp #*80 
Tablet Refills:*0 
9.  Methadone 20 mg PO QPM 
RX *methadone 10 mg 2 tablets by mouth Daily at 1400 Disp #*20 
Tablet Refills:*0 
10.  Methadone 30 mg PO QHS  
11.  Pantoprazole 40 mg PO Q12H  
12.  Simvastatin 10 mg PO QPM  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Upper gastrointestinal bleed
Marginal ulcer

Secondary:
s/p below the knee amputation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ with an upper gastrointestinal bleed. 
You were monitored in the medical intensive care unit and had 
multiple endoscopies. We found that you had two ulcers. You will 
be placed on proton pump inhibitor twice daily for 8 weeks then 
will continue this lifelong. You will stop aspirin and Plavix.

You were seen by the bariatric surgery team and they recommended 
aggressive nutrition. You will need to follow up with your 
bariatric surgery to further discuss having reversal of your 
bypass because of the ulcers in your stomach.

It was a pleasure taking care of you. We wish you the best in 
your health.

Sincerely,
Your ___ Team
 
Followup Instructions:
___